US06291452B1
A mixture of (3RS)-3-acetoxy-5-(2-fluorophenyl)-9-isopropyl-2,3-dihydro-1H-1,4-benzodiazepin-2-one (2.73 g), sodium iodide (11.5 g) and phthalimide potassium salt (2.14 g) in N,N-dimethylformamide (18 ml) was stirred at 90° C. for 1.3 hours. The hot reaction mixture was poured into an ice with stirring to afford precipitates, which were collected by filtration, washed with water and air dried at room temperature to afford (3RS)-3-phthalimido-5-(2-fluorophenyl)-9-isopropyl-2,3-dihydro-1H-1,4-benzodiazepin-2-one (3.08 g, 90.6%) as a crystalline powder.

reactant | (3RS)-3-acetoxy-5-(2-fluorophenyl)-9-isopropyl-2,3-dihydro-1H-1,4-benzodiazepin-2-one | 2.73 g | C(C)(=O)OC1C(NC2=C(C(=N1)C1=C(C=CC=C1)F)C=CC=C2C(C)C)=O | C20H19FN2O3
reactant | sodium iodide | 11.5 g | [I-].[Na+]
reactant | phthalimide potassium salt | 2.14 g | [K].C1(C=2C(C(N1)=O)=CC=CC2)=O
solvent | N,N-dimethylformamide | 18 ml | CN(C=O)C | C3H7NO
product | (3RS)-3-phthalimido-5-(2-fluorophenyl)-9-isopropyl-2,3-dihydro-1H-1,4-benzodiazepin-2-one | 3.08 g, 90.6% | C1(C=2C(C(N1C1C(NC3=C(C(=N1)C1=C(C=CC=C1)F)C=CC=C3C(C)C)=O)=O)=CC=CC2)=O | C26H20FN3O3
